Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / ibuprofen / Humalog
 
Attending: ___.
 
Chief Complaint:
left foot wound 
 
Major Surgical or Invasive Procedure:
Left BKA 
 
History of Present Illness:
___ w protein C deficiency, recurrent ___ (including CTEPH s/p
PA thromboembolectomy ___ on Coumadin, DM2, and PVD s/p L SFA
to ___ bypass w NRSVG & L ___ toe amputation ___ (Dr.
___ who is transferred from ___ for 
management
of RLE DVT and left foot wound/cellulitis with known occlusion 
of
previous L SFA to ___ bypass. 

The patient was recently admitted to ___ and there underwent
resection of the left ___ toe as well as the ___ and ___
metatarsal heads with debridement of significant left wound with
associated cellulitis, 2 days ago. Per written record, the
patient was initially started on vancomycin/zosyn but this was
changed to zosyn when intra-op left foot wound cultures grew
serratia. 

At the time of admission he endorsed severe pain in the left 
foot at the wound
site, though he denies systemic symptoms, fevers, chills, 
nausea,
vomiting. 
 
Past Medical History:
Type II DM, poorly controlled
DVT/PE on Coumadin (goal INR 2.5-3.5)
Tobacco abuse
Type 2 protein C deficiency
HLD
Lower extremity neuropathy
Chronic back pain from car accident in ___
HLD
CTEPH - s/p PTE at ___ Gen in ___

___: Left superficial femoral artery to posterior
tibial artery bypass with in-situ vein, left fourth toe
amputation, angioscopy with lysis of valves.
 
Social History:
___
Family History:
Mother had recurrent ___, died of pancreatic cancer in her ___
but clots started in her ___. Father had PE around age ___ and
told patient he had Factor V Leiden. Grandfather with lung
cancer. There is no known family history of pulmonary
hypertension.
 
Physical Exam:
Admission Physical Exam: 
Vitals: 100.4     121 / 82    104     20      96 RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, poor dentition
CV: RRR
PULM: Breathing comfortably on room air
ABD: Soft, nondistended, nontender
LLE: 1+ pitting edema, dopplerable ___
RLE: right foot very cellulitic at previous surgical site which
appears to be draining scant purulent material; this was 
repacked
with dry packing strip and dry gauze dressing; the right 
anterior
shin is notable for 3-4cm ulcer which is shallow, granulating,
and without indicator of infection--this was dressed with 
adaptic
and dry gauze. Dopplerable ___ 

Discharge Physical Exam 
Physical Exam: 98.3 
Vitals: 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, poor dentition
CV: RRR
PULM: Breathing comfortably on room air
ABD: Soft, nondistended, nontender
LLE: no edema, dopplerable ___ 
RLE: s/p BKA; wound healing well with some erythema surrounding 
the staples. Wrapped in Kerlix. Knee immobilizer in place. 
 
Pertinent Results:
___ 06:59AM BLOOD WBC-7.1 RBC-4.33* Hgb-11.5* Hct-37.0* 
MCV-86 MCH-26.6 MCHC-31.1* RDW-14.6 RDWSD-45.6 Plt ___
___ 07:00AM BLOOD WBC-7.3 RBC-3.82* Hgb-10.3* Hct-33.2* 
MCV-87 MCH-27.0 MCHC-31.0* RDW-14.4 RDWSD-45.9 Plt ___
___ 01:50AM BLOOD WBC-10.2* RBC-3.71* Hgb-10.1* Hct-32.0* 
MCV-86 MCH-27.2 MCHC-31.6* RDW-14.3 RDWSD-44.4 Plt ___
___ 01:08PM BLOOD WBC-8.2 RBC-4.03* Hgb-10.9* Hct-34.2* 
MCV-85 MCH-27.0 MCHC-31.9* RDW-14.4 RDWSD-44.7 Plt ___
___ 06:50AM BLOOD WBC-9.3 RBC-4.09* Hgb-10.9* Hct-34.8* 
MCV-85 MCH-26.7 MCHC-31.3* RDW-14.2 RDWSD-44.0 Plt ___
___ 06:42AM BLOOD WBC-9.5 RBC-4.43* Hgb-11.9* Hct-38.2* 
MCV-86 MCH-26.9 MCHC-31.2* RDW-14.4 RDWSD-45.0 Plt ___
___ 06:37AM BLOOD WBC-9.7 RBC-3.98* Hgb-10.9* Hct-33.7* 
MCV-85 MCH-27.4 MCHC-32.3 RDW-14.1 RDWSD-44.0 Plt ___
___ 12:58AM BLOOD WBC-10.2* RBC-3.87* Hgb-10.5* Hct-32.9* 
MCV-85 MCH-27.1 MCHC-31.9* RDW-14.2 RDWSD-44.0 Plt ___
___ 06:59AM BLOOD Plt ___
___ 07:00AM BLOOD Plt ___
___ 10:00AM BLOOD PTT-64.1*
___ 01:50AM BLOOD Plt ___
___ 01:50AM BLOOD ___ PTT-52.1* ___
___ 04:10PM BLOOD PTT-138.9*
___ 01:08PM BLOOD Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD ___ PTT-66.3* ___
___ 08:05PM BLOOD PTT-57.6*
___ 01:43PM BLOOD PTT-58.0*
___ 06:42AM BLOOD Plt ___
___ 06:42AM BLOOD Plt ___
___ 06:42AM BLOOD ___ PTT-61.2* ___
___ 05:45PM BLOOD PTT-43.6*
___ 11:13AM BLOOD PTT-40.8*
___ 06:37AM BLOOD Plt ___
___ 06:37AM BLOOD ___ PTT-42.2* ___
___ 12:58AM BLOOD Plt ___
___ 12:58AM BLOOD ___ PTT-31.7 ___
___ 05:45PM BLOOD Heparin-0.23*
___ 06:59AM BLOOD Glucose-200* UreaN-16 Creat-0.5 Na-141 
K-5.2* Cl-101 HCO3-28 AnGap-12
___ 07:00AM BLOOD Glucose-240* UreaN-15 Creat-0.5 Na-139 
K-4.8 Cl-101 HCO3-30 AnGap-8*
___ 01:50AM BLOOD Glucose-225* UreaN-11 Creat-0.6 Na-136 
K-4.7 Cl-96 HCO3-30 AnGap-10
___ 01:08PM BLOOD Glucose-248* UreaN-13 Creat-0.6 Na-138 
K-5.0 Cl-99 HCO3-26 AnGap-13
___ 06:50AM BLOOD Glucose-305* UreaN-12 Creat-0.5 Na-137 
K-4.7 Cl-97 HCO3-28 AnGap-12
___ 06:42AM BLOOD Glucose-286* UreaN-9 Creat-0.6 Na-138 
K-5.6* Cl-95* HCO3-32 AnGap-11
___ 06:37AM BLOOD Glucose-205* UreaN-8 Creat-0.5 Na-143 
K-4.5 Cl-100 HCO3-31 AnGap-12
___ 12:58AM BLOOD Glucose-283* UreaN-8 Creat-0.6 Na-138 
K-4.8 Cl-95* HCO3-33* AnGap-10
___ 07:00AM BLOOD Calcium-8.5 Phos-3.2 Mg-1.9
___ 01:50AM BLOOD Calcium-8.3* Phos-3.4 Mg-1.9
___ 01:08PM BLOOD Calcium-9.3 Mg-2.5
___ 06:50AM BLOOD Calcium-8.7 Phos-3.4 Mg-1.7
___ 06:42AM BLOOD Calcium-9.4 Phos-3.7 Mg-1.9
___ 06:37AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.0
___ 12:58AM BLOOD Calcium-9.0 Phos-3.7 Mg-2.0
___ 06:42AM BLOOD %HbA1c-12.0* eAG-298*
___ 10:11PM BLOOD Vanco-13.5
___ 07:00AM BLOOD Vanco-36.2*
 
Brief Hospital Course:
This is a ___ gentleman, who had a previous left-sided 
SFA to posterior
tibial bypass with vein graft which failed.  He presented last 
month with lower extremity DVT as well as cellulitis and was 
placed on anticoagulation, but ultimately developed additional 
DVTs and a pulmonary embolism with changes to his
anticoagulation management.  He represented for management of 
these issues as well as progressive left lower extremity rest 
pain and nonhealing sites to his ___ toe amputation, which was 
done last year.  Given this constellation of symptoms and lack
of revascularization options, a decision was made to proceed 
with a left lower extremity below knee amputation.  He was 
amenable to that course.

Neuro: Prior to admission, the patient reportedly took 30 mg of 
oxycodone per day at home for chronic back pain. In addition, he 
took gabapentin and cyclobenzaprine. Perioperatively, his pain 
regimen was increased to ___ mg of oxycodone q3h prn in 
addition to morphine for breakthrough pain, gabapentin, and 
cyclobenzaprine. This regimen kept his pain to a reasonable 
level after surgery. Prior to discharge, he was transitioned to 
PO dilaudid. The patient tolerated this medication well and it 
seemed to keep his pain under control. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Vasc: The patient underwent a L BKA due to lack of 
revascularization options and infection of the left lower 
extremity. The patient tolerated the procedure well. Please see 
the operative report for further details. Post operatively, his 
incisions remained c/d/I. He worked with ___ and OT during this 
hospitalization. He remained in a knee immobilizer when 
appropriate. 
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. 
GI/GU/FEN: The patient was initially kept NPO for the OR, and he 
was subsequently advanced post operatively to a regular diabetic 
diet that he tolerated well. 
Endocrine: The patient presented with a %HbA1c of 12.0. His 
blood sugars were difficult to control during this admission and 
___ was consulted and helped manage his 
insulin regimen. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient has a known history of protein C deficiency 
and recurrent ___. He arrived to the hospital with new occlusive 
thrombus within the left femoral and
popliteal vein and unchanged completely occlusive thrombus 
throughout the right common femoral, femoral and popliteal vein. 
He developed this while on apixiban. Hematology was consulted 
and their recommendations of hep gtt pre operatively and 
transitioning to lovenox afterwards were followed. I have copied 
the hematology recommendations below: 
- We recommend anti-coagulation with only enoxaparin for atleast
next ___ weeks. Afterwards, we recommend either continuing with
enoxaparin or bridging to warfarin with a goal INR of 2.5-3.5
with hematology follow up. He will need overlap of warfarin with
enoxaparin until his INR is therapeutic on two successive blood
draws which are at least 24 hours apart.
He expressed preference to follow-up with his outside hospital
hematologist.
- We will not recommend direct oral anticoagulants for this
gentleman due to inability to monitor drug levels, history of
recurrent ___, and new LLE DVT while on eliquis 5 mg BID.
. 
Prophylaxis: as detailed above

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 325 mg PO ___ 
2. Cyclobenzaprine 5 mg PO TID 
3. Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
4. Gabapentin 600 mg PO BID 
5. Lantus U-100 Insulin (insulin glargine) 100 unit/mL 
subcutaneous QHS 
6. HumaLOG U-100 Insulin (insulin lispro) 100 unit/mL 
subcutaneous TID W/MEALS 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. OxyCODONE (Immediate Release) 5 mg PO QID:PRN Pain - Moderate 

9. Simvastatin 40 mg PO ___ 
10. FLUoxetine 40 mg PO ___ 
11. Lisinopril 2.5 mg PO ___ 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth every eight (8) hours Disp #*20 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*40 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
discontinue if loose stooling 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0 
4.  HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN Pain - Severe 
do not operate machinery while taking this medication
hold for RR<12, O2 sat <92, somnolence  
RX *hydromorphone [Dilaudid] 4 mg 1 tablet(s) by mouth every 
four (4) hours Disp #*25 Tablet Refills:*0 
5.  Glargine 36 Units Dinner
Novolog 10 Units Breakfast
Novolog 10 Units Lunch
Novolog 14 Units Dinner
Insulin SC Sliding Scale using Novolog Insulin
RX *insulin glargine [Lantus U-100 Insulin] 100 unit/mL AS DIR 
36 Units before DINR; Disp #*20 Vial Refills:*0
RX *insulin aspart U-100 [Novolog Flexpen U-100 Insulin] 100 
unit/mL AS DIR Up to 10 Units QID per SS 10 Units before LNCH; 
Units QID per sliding scale 14 Units before DINR; Units QID per 
SS Disp #*20 Syringe Refills:*0 
6.  Lidocaine 5% Patch 1 PTCH TD QPM 
place directly above left knee  
RX *lidocaine 5 % place directly above left knee QPM Disp #*15 
Patch Refills:*0 
7.  Metoprolol Succinate XL 50 mg PO ___ 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*20 Tablet Refills:*0 
8.  Senna 8.6 mg PO BID:PRN constipation 
discontinue if loose stooling 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*20 Tablet Refills:*0 
9.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 2 
tablet(s) by mouth twice a day Disp #*90 Tablet Refills:*0 
10.  Enoxaparin Sodium 80 mg SC BID 
RX *enoxaparin 80 mg/0.8 mL 80 mg sc twice a day Disp #*40 
Syringe Refills:*0 
11.  Aspirin 325 mg PO ___  
12.  Cyclobenzaprine 5 mg PO TID  
13.  FLUoxetine 40 mg PO ___  
14.  Gabapentin 600 mg PO BID  
15.  Lisinopril 2.5 mg PO ___  
16.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
DVT, Left foot wound now s/p L below the knee amputation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ and 
underwent a left below the knee amputation. In addition, you 
were seen by the hematology team who recommended the appropriate 
medications to help manage your blood clots. You have now 
recovered from surgery and are ready to be discharged. Please 
follow the instructions below to continue your recovery:

ACTIVITY: 
 On the side of your amputation you are non weight bearing for 
___ weeks. 
 You should keep this amputation site elevated when ever 
possible. 
 You may use the opposite foot for transfers and pivots.
 No driving until cleared by your Surgeon.
 No heavy lifting greater than 20 pounds for the next 3 weeks. 

BATHING/SHOWERING: 
 You may shower when you get home
 No tub baths or pools / do not soak your foot for 4 weeks from 
your date of surgery 

WOUND CARE:
 Sutures / Staples may have been removed before discharge. If 
they are not, an appointment will be made for you to return for 
staple removal. 
 When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.

CAUTIONS:
 If you smoke, please make every attempt to quit.  Your primary 
care physician can help with this.  Smoking causes narrowing of 
your blood vessels which in turn decreases circulation.  
DIET:
 Low fat, low cholesterol / if you are diabetic  follow your 
dietary restrictions as before 
CALL THE OFFICE FOR: ___
 Bleeding, redness of, or drainage from your foot wound
 New pain, numbness or discoloration of the skin on the 
effected foot
 Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site. 

I have placed the hematology recommendations below: 
- We recommend anti-coagulation with only enoxaparin for atleast
next ___ weeks. Afterwards, we recommend either continuing with
enoxaparin or bridging to warfarin with a goal INR of 2.5-3.5
with hematology follow up. He will need overlap of warfarin with
enoxaparin until his INR is therapeutic on two successive blood
draws which are at least 24 hours apart.
He expressed preference to follow-up with his outside hospital
hematologist.
- We will not recommend direct oral anticoagulants for this
gentleman due to inability to monitor drug levels, history of
recurrent ___, and new LLE DVT while on eliquis 5 mg BID.

 
Followup Instructions:
___